US07329656B2
2-[(tert-butoxy)-N-methylcarbonylamino]-N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl} (4-piperidyl))-4-methylphenyl]acetamide was dissolved in CH2Cl2 (1.00 mL) and trifluoroacetic acid (0.160 mL) was added to the stirred solution. Stirring was continued for 10 min then the reaction mixture was concentrated in vacuo to give a gum. The crude product was dissolved in saturated NaHCO3 solution (10 mL to pH 10) and extracted with CH2Cl2 (2×10 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to give N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl]2-(methylamino)acetamide (68.6 mg, 99.2% yield) as a yellow solid.

reactant | 2-[(tert-butoxy)-N-methylcarbonylamino]-N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl} (4-piperidyl))-4-methylphenyl]acetamide | C(C)(C)(C)ON(C(=O)C)CC(=O)NC1=CC(=C(C=C1)C)C1CCN(CC1)CC1=CC=C(C=C1)SC1=CC=C(C=C1)OC | C34H43N3O4S
reactant | trifluoroacetic acid | 0.160 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 1.00 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL, pH 10 | C(=O)(O)[O-].[Na+]
product | N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl]2-(methylamino)acetamide | 68.6 mg, 99.2% yield | COC1=CC=C(C=C1)SC1=CC=C(C=C1)CN1CCC(CC1)C=1C=C(C=CC1C)NC(CNC)=O | C29H35N3O2S
